US06002008
8-Methoxy-4-(2,4,6-trifluoro-phenylamino)-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 274. A reaction mixture of 200.0 mg (0.92 mmol) of 4-chloro-8-methoxy-3-quinolinecarbonitrile, 105.7 mg (0.92 mmol) of pyridine hydrochloride and 148.6 mg (1.0 mmol) of 2,4,6-trifluoro-aniline in 10 mL of 2-ethoxyethanol was heated at 100° C. for 2 hr. The work up gave 112.6 mg (37.4%) of the product as a yellow solid, m.p. 297° C. (dec.), mass spectrum (electrospray, m/e): M+H 330.0.

reactant | 4-chloro-8-methoxy-3-quinolinecarbonitrile | 0.92 mmol, 200.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | pyridine hydrochloride | 0.92 mmol, 105.7 mg | Cl.N1=CC=CC=C1
reactant | 2,4,6-trifluoro-aniline | 1.0 mmol, 148.6 mg | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 8-Methoxy-4-(2,4,6-trifluoro-phenylamino)-quinoline-3-carbonitrile | COC=1C=CC=C2C(=C(C=NC12)C#N)NC1=C(C=C(C=C1F)F)F | C17H10F3N3O
